US04362740
In 200 ml of water were dissolved 14.2 g of 4-chlorothiosalicylic acid and 20 g of sodium carbonate, and 19.1 g of α-bromo-γ-butyrolactone was added dropwise to the solution under ice-cooling. After stirring the solution at room temperature for 6 hours, 35 ml of concentrated hydrochloric acid was added to the reaction solution at room temperature to acidify. After stirring at room temperature for 3 hours, the precipitate was collected, washed with water and dried, resulting in crude α-[(2-carboxy-5-chlorophenyl)thio]-γ-butyrolactone. The crude product was dissolved in 150 ml of acetic anhydride and 30 ml of triethylamine, and heated under a stream of nitrogen at 130° C. for 10 minutes. The reaction solution was evaporated to dryness under reduced pressure, and the resulting residue was chromatographed on a column of activated carbon and silica gel. Recrystallization from ethanol of the resultant crude crystals yielded 1.60 g of 6-chloro-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione as colorless needles. Melting point: 157°-158° C.

reactant | 4-chlorothiosalicylic acid | 14.2 g | ClC=1C=C(C(C(=O)O)=CC1)S | C7H5ClO2S
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | α-bromo-γ-butyrolactone | 19.1 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | 6-chloro-4',5'-dihydrospiro[benzo[b]thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | 1.60 g | ClC=1C=CC2=C(SC3(C(OCC3)=O)C2=O)C1 | C11H7ClO3S
